### PR TITLE
Change the definition of is_interval to rely on large inequalities

### PR DESCRIPTION
**Pull request by ybertot**
The previous definition, based on strict inequalities, is less practical

The impact of this change has been tested against two other pull requests that use the `is_interval` concept

- #385 : porting this PR leads to branch [ctinv-itv](https://github.com/ybertot/analysis/tree/ctinv-itv)
- #371 : porting this PR leads to branch [ctv-itv-meas](https://github.com/ybertot/analysis/tree/ctv-itv-meas) (actually this branch contains both 385 and 371).

### CODE REVIEW

**Comment by CohenCyril** [comment]
Hi @ybertot, I do not understand what 793badc are 3aa4fe5 doing here. Did I miss something?

**Comment by ybertot** [comment]
I don't understand either.  I did a rebase, and all of a sudden these commits were included in the branch.  Maybe I goofed one of my rebase, and then I had to do force push, but people usually have to do a force push after a rebase, so that you are really working without a safety net at this point.

Maybe the solution will be to remake the branch from scratch and cherry-pick the commits.  I am not too fluent, but I may be able to repair that.

**Comment by CohenCyril** [comment]
> I did a rebase, and all of a sudden these commits were included in the branch.

Well, it looks like you rebased master on top of `is_itv` and then added a commit...

**Comment by ybertot** [comment]
should be fixed now.

**Review by CohenCyril — APPROVED** [review]
OK, I'm 100% of the benefits of this change.
@affeldt-aist do you agree?

**Comment by affeldt-aist** [comment]
> OK, I'm 100% of the benefits of this change.
> @affeldt-aist do you agree?

Yes, no problem.

File: theories/normedtype.v [hunk 1]
```diff
@@ -3176,7 +3179,9 @@ split => [cE x y Ex Ey z /andP[xz zy]|].
 - apply: contrapT => Ez.
   pose Az := E `&` [set x | x < z]; pose Bz := E `&` [set x | z < x].
   apply/connectedPn : cE; exists (fun b => if b then Az else Bz); split.
-  + by case; [exists x | exists y].
+  + move: xz zy Ez.
+    rewrite !le_eqVlt => /orP [/eqP <- // | xz] /orP[/eqP -> // | zy] Ez.
```
Comment (CohenCyril) [inline theories/normedtype.v:3183]:
```suggestion
    rewrite !le_eqVlt => /predU1P [<-//|xz] /predU1P[/eqP->|zy] Ez.
```

File: theories/normedtype.v [hunk 2]
```diff
@@ -3091,7 +3092,8 @@ rewrite -(open_subsetE _ (@open_gt _ _)) => r infXr.
 move/has_ubPn : uX => /(_ r)[y Xy yr].
 have hiX : has_inf X by split => //; exists y.
 have /(inf_adherent hiX)[e Xe] : 0 < r - inf X by rewrite subr_gt0.
-by rewrite addrCA subrr addr0 => er; apply: (iX _ _ Xe Xy); rewrite yr er.
+rewrite addrCA subrr addr0 => er; apply: (iX _ _ Xe Xy).
+by rewrite (ltW yr) (ltW er).
```
Comment (CohenCyril) [inline theories/normedtype.v:3096]:
```suggestion
by rewrite addrCA subrr addr0 => er; apply: (iX e y); rewrite ?ltW.
```

File: theories/normedtype.v [hunk 3]
```diff
@@ -3080,7 +3080,8 @@ rewrite -(open_subsetE _ (@open_lt _ _)) => r rsupX.
 move/has_lbPn : lX => /(_ r)[y Xy yr].
 have hsX : has_sup X by split => //; exists y.
 have /(sup_adherent hsX)[e Xe] : 0 < sup X - r by rewrite subr_gt0.
-by rewrite opprB addrCA subrr addr0 => re; apply (iX _ _ Xy Xe); rewrite yr re.
+rewrite opprB addrCA subrr addr0 => re; apply (iX _ _ Xy Xe).
+by rewrite (ltW yr) (ltW re).
```
Comment (CohenCyril) [inline theories/normedtype.v:3084]:
```suggestion
by rewrite opprB addrCA subrr addr0 => re; apply: (iX y e); rewrite ?ltW.
```

File: theories/normedtype.v [hunk 4]
```diff
@@ -3069,7 +3069,7 @@ Proof.
 move=> iX lX uX; rewrite predeqE => x; split => // _.
 move/has_lbPn : lX => /(_ x) [y Xy xy].
 move/has_ubPn : uX => /(_ x) [z Xz xz].
-by apply: (iX _ _ Xy Xz); rewrite xy xz.
+by apply: (iX _ _ Xy Xz); rewrite (ltW xy) (ltW xz).
```
Comment (CohenCyril) [inline theories/normedtype.v:3072]:
```suggestion
by apply: (iX y z); rewrite ?ltW.
```

File: theories/normedtype.v [hunk 5]
```diff
@@ -3010,22 +3010,22 @@ Section interval.
...
+Lemma is_intervalPlt (E : set R) :
+  is_interval E <-> forall x y, E x -> E y -> forall z, x < z < y -> E z.
 Proof.
 split=> iE x y Ex Ey z /andP[].
-  rewrite le_eqVlt => /orP[/eqP <-//|xz]; rewrite le_eqVlt => /orP[/eqP ->//|?].
-  by apply (iE _ _ Ex Ey); rewrite xz.
-by move=> xz zy; apply (iE _ _ Ex Ey); rewrite (ltW xz) (ltW zy).
+  by move=> xz zy; apply (iE _ _ Ex Ey); rewrite (ltW xz) (ltW zy).
+rewrite le_eqVlt => /orP[/eqP <-//|xz]; rewrite le_eqVlt => /orP[/eqP ->//|?].
+by apply (iE _ _ Ex Ey); rewrite xz.
```
Comment (CohenCyril) [inline theories/normedtype.v:3021]:
```suggestion
  by move=> xz zy; apply: (iE x y); rewrite ?ltW.
rewrite !le_eqVlt => /predU1P[<-//|xz] /predU1P[->//|zy].
by apply: (iE x y); rewrite ?xz.
```

File: theories/normedtype.v [hunk 6]
```diff
@@ -3109,7 +3111,8 @@ have /(inf_adherent hiX)[e Xe] : 0 < r - inf X by rewrite subr_gt0.
 rewrite addrCA subrr addr0 => er.
 have hsX : has_sup X by split.
 have /(sup_adherent hsX)[f Xf] : 0 < sup X - r by rewrite subr_gt0.
-by rewrite opprB addrCA subrr addr0 => rf; apply: (iX _ _ Xe Xf); rewrite er rf.
+rewrite opprB addrCA subrr addr0 => rf; apply: (iX _ _ Xe Xf).
+by rewrite (ltW er) (ltW rf).
```
Comment (CohenCyril) [inline theories/normedtype.v:3115]:
```suggestion
by rewrite opprB addrCA subrr addr0 => rf; apply: (iX e f); rewrite ?ltW.
```

File: theories/normedtype.v [hunk 7]
```diff
@@ -3207,32 +3212,32 @@ split => [cE x y Ex Ey z /andP[xz zy]|].
...
-  rewrite z1y andbT ltr_addl; split => //.
+  rewrite z1y andbT ler_addl; split => //.
   have ncA1z1 : (~` closure (A true)) z1.
     apply zcA1; rewrite /ball /= /z1 opprD addrA subrr add0r normrN.
     by rewrite ger0_norm // ltr_pdivr_mulr // ltr_pmulr // ltr1n.
   have nA0z1 : ~ (A false) z1.
     move=> A0z1; have : z < z1 by rewrite /z1 ltr_addl.
-    apply/negP; rewrite -leNgt; apply sup_ub; first by exists y => u [_] /andP[].
+    apply/negP; rewrite -leNgt.
+     apply sup_ub; first by exists y => u [_] /andP[].
```
Comment (CohenCyril) [inline theories/normedtype.v:3240]:
```suggestion
    apply/negP; rewrite -leNgt.
    apply: sup_ub; first by exists y => u [_] /andP[].
```

**Review by CohenCyril — CHANGES_REQUESTED** [review]
nitpicking

**Review by CohenCyril — APPROVED** [review]
LGTM
